US04230712
D. 17-Cylopropylmethyl-3-methoxy-8β-methylmorphinan-6-one (TR-5119).
To a suspension of 3-methoxy-8β-methylmorphinan-6-one hydrochloride (prepared in Part C) in DMF (1 g/10 ml) was added NaHCO3 (2.2 equivalents [eq]) and cyclopropylmethyl bromide (1.5 eq). The mixture was heated under an argon atmosphere at 100° C. for 16 hours, then cooled. The mixture was filtered and the filtrate was evaporated in high vacuum to yield a residue. The residue was dissolved in water, adjusted to about pH 11 with concentrated NH4OH and extracted with three portions of benzene. The organic phase was dried, filtered and evaporated to a residue. The residue was chromatographed over silica Gel G using 15:1 (V/V) chloroform:methanol as the eluant. Pure chromatographic fractions were combined and the product crystallized as the free base, mp 114°-115° C., in 72% yield.

reactant | 3-methoxy-8β-methylmorphinan-6-one hydrochloride | Cl.COC=1C=CC=2C[C@@H]3[C@@H]4[C@H](CC(C[C@@]4(C2C1)CCN3)=O)C
reactant | NaHCO3 | 2.2 equivalents | C(=O)(O)[O-].[Na+]
reactant | cyclopropylmethyl bromide | 1.5 eq | C1(CC1)CBr | C4H7Br
reactant | NH4OH | [NH4+].[OH-]
solvent | DMF | 10 ml, 1 g | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 17-Cylopropylmethyl-3-methoxy-8β-methylmorphinan-6-one | 72% yield | C1(CC1)CN1[C@H]2[C@@H]3[C@H](CC(C[C@@]3(C=3C=C(C=CC3C2)OC)CC1)=O)C | C22H29NO2
